US08791123B2
Step F: Preparation of (R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl) pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 76, Step F, using ((R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid hydrochloride and ammonium chloride to yield the title compound as a white solid (42.2 mg, 91% yield). MS (apci) m/z=455.1 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid hydrochloride | Cl.FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O)OCCN2CCOCC2
reactant | ammonium chloride | [Cl-].[NH4+]
product | (R)-5-(2-(5-fluoro-2-(2-morpholinoethoxy)phenyl) pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 42.2 mg, 91% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N)OCCN2CCOCC2 | C23H27FN6O3
